US07160888B2
Synthesis of 7-{4-[4-(1,3-Dihydro-isobenzofuran-4-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a suspension of 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.278 g, 1.186 mmol, 1.1 eq) and 1-(1,3-dihydro-isobenzofuran-4-yl)-piperazine (0.217 g, 1.064 mmol, 1 eq) in dichloroethane (5 mL) was added NaBH(OAc)3 (0.469 g, 4.425 mmol, 3.73 eq). The slurry was allowed to stir overnight at room temperature (18 h). The mixture was diluted with EtOAc and quenched with saturated NaHCO3. The organic phase was then washed with brine, dried over Na2SO4, filtered and evaporated in vacuo. Purification by silica gel chromatography (2% MeOH/CH2Cl2) followed by formation of the HCl salt using 1 N HCl in ether provided the title compound (0.143 g, 26%). CHN Found: C, 64.37; H, 6.54; N, 12.13. This calculates out for C24H30N4O3×1.00 HCl.

reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 1.186 mmol, 0.278 g, 1.1 eq | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
reactant | 1-(1,3-dihydro-isobenzofuran-4-yl)-piperazine | 1.064 mmol, 0.217 g, 1 eq | C1OCC2=C(C=CC=C12)N1CCNCC1 | C12H16N2O
reactant | NaBH(OAc)3 | 4.425 mmol, 0.469 g, 3.73 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-{4-[4-(1,3-Dihydro-isobenzofuran-4-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.143 g, 26% | C1OCC2=C(C=CC=C12)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=N1)=O | C24H30N4O3
